US04894381
227 g (1.9 mols) of thionyl chloride are added dropwise to a mixture of 503 g (7.4 mols) of imidazole and 1.6 liter of methylene chloride at 5° C., while stirring. The mixture is subsequently stirred for 20 minutes and 157 g (0.97 mol) of 8-hydroxy-1-tetralone are then added. The reaction mixture is stirred for a further 2 hours and then filtered and the filtrate is poured into ice water. The organic phase is separated off and concentrated under reduced pressure. The residue is taken up in 1 liter of toluene and the solution formed is boiled under reflux for one hour. The mixture is concentrated again under reduced pressure and the residue which remains is dissolved in methylene chloride. The organic phase is washed with water and concentrated under reduced pressure. The residue is triturated with toluene, the product separating out as crystals. 95 g of 3,4-dihydro-1-(imidazol-1-yl)-8-hydroxynaphthalene of melting point 186° C. are obtained in this manner.

reactant | thionyl chloride | 1.9 mols, 227 g | S(=O)(Cl)Cl | Cl2OS
reactant | imidazole | 7.4 mols, 503 g | N1C=NC=C1 | C3H4N2
reactant | 8-hydroxy-1-tetralone | 0.97 mol, 157 g | OC=1C=CC=C2CCCC(C12)=O | C10H10O2
solvent | methylene chloride | 1.6 liter | C(Cl)Cl | CH2Cl2
product | 3,4-dihydro-1-(imidazol-1-yl)-8-hydroxynaphthalene | 95 g | N1(C=NC=C1)C1=CCCC2=CC=CC(=C12)O | C13H12N2O
